US07985817B2
Into a flask containing 100 ml of tetrahydrofuran, 2,3,4,5-tetramethylcyclopenta-2,4-diene (3.67 g, 30 mmol) was added, and then n-butyl lithium (12 ml) was added in droplets thereto at 0° C. The reaction temperature was gradually increased to room temperature, and the reaction mixture was allowed to react for 8 hours. The temperature of the reaction solution was decreased to −78° C., after which the reaction solution was added with dichlorosilacyclohexane (5.07 g, 30 mmol) and then allowed to react for 12 hours. After the reaction, volatile material was removed, the resultant reaction product was extracted with 100 ml of hexane, and more volatile material was removed, thus obtaining 7.01 g of chloro-2,3,4,5-tetramethylcyclopentadienyl silacyclohexane as light yellow oil. Subsequently, the chloro-2,3,4,5-tetramethylcyclopentadienyl silacyclohexane thus obtained was dissolved in 100 ml of tetrahydrofuran, without additional purification, and 2.18 g of lithium tert-butylamide was added in droplets thereto at 0° C., after which the reaction mixture was allowed to react at room temperature for 2 hours. After the reaction, the volatile material was removed, the resultant reaction product was extracted with 100 ml of hexane, and more volatile material was removed, thus obtaining 7.42 g of (tert-butylamido)(2,3,4,5-tetramethylcyclopenta-2,4-dienyl)silacyclohexane as light yellow oil.

reactant | 2,3,4,5-tetramethylcyclopenta-2,4-diene | 30 mmol, 3.67 g | CC=1CC(=C(C1C)C)C | C9H14
reactant | n-butyl lithium | 12 ml | C(CCC)[Li]
reactant | dichlorosilacyclohexane | 30 mmol, 5.07 g | Cl[Si]1(CCCCC1)Cl | C5H10Cl2Si
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | chloro-2,3,4,5-tetramethylcyclopentadienyl silacyclohexane | 7.01 g | Cl[Si]1(CCCCC1)C1C(=C(C(=C1C)C)C)C | C14H23ClSi
